US04591948
To a reaction vessel were added 2500 g of toluene and 50 g of FeCl3 and reaction was carried out for 3 hours by adding 1500 g of benzyl chloride with stirring at room temperature. After the reaction, the catalyst was deactivated and 660 g of dibenzyltoluene was obtained.

reactant | benzyl chloride | 1500 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | 2500 g | C1(=CC=CC=C1)C | C7H8
product | dibenzyltoluene | 660 g | C(C1=CC=CC=C1)C=1C(=C(C=CC1)C)CC1=CC=CC=C1 | C21H20
